US04587236
1.9 g of 17-benzoyloxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione is reacted, analogously to Example 2c, with acetic anhydride and worked up. The crude product is purified on 200 g of silica gel with a methylene chloride-acetone gradient (0-12% acetone), thus isolating 1.8 g of 21-acetoxy-17-benzoyloxy-11β-hydroxy-6α-methyl-1,4-pregnadiene-3,20-dione, mp 258° C.

reactant | 17-benzoyloxy-11β,21-dihydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 1.9 g | C(C1=CC=CC=C1)(=O)O[C@]1(C(CO)=O)CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C | C29H34O6
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 21-acetoxy-17-benzoyloxy-11β-hydroxy-6α-methyl-1,4-pregnadiene-3,20-dione | 1.8 g | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)OC(C1=CC=CC=C1)=O)=O | C31H36O7
